US09381191B2
In a flask placed under an argon flow, 0.078 g (1.984 mmol) of LAH were dissolved in 1.4 ml of tetrahydrofurane and then with vigorous magnetic stirring, a solution of 0.3 g (0.992 mmol) of ethyl 3-(phenylethynyl)imidazo[1,2-a]pyridine-2-carboxylate in 3.3 ml of tetrahydrofurane was added drop wise. The mixture was stirred at r.t. for 15 min and then 0.2 ml of water were added with caution, followed by a solution of 0.2 ml of sulfuric acid in 1.5 ml of water. After separation, the organic phase was washed with 50 ml of water. The aqueous phase was extracted with 3×50 ml of ethyl acetate and then the combined organic phases were washed with 100 ml of a saturated NaCl aqueous solution and then dried on Na2SO4 which was then removed by filtration. The obtained filtrate was concentrated in vacuo. The crude residue was purified by flash chromatography on a silica gel cartridge (eluent: heptane/ethyl acetate gradient, from 40% to 30% of heptane, v/v). 0.076 g (yield=30%) of (3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl)methanol were obtained as a pale yellow solid. LC-MS: m/z=249 (MH+); UV purity at 254 nm=97%. 1H NMR (300 MHz, DMSO) δ 8.59 (dt, J=6.7, 1.1 Hz, 1H), 7.77-7.56 (m, 3H), 7.56-7.32 (m, 4H), 7.11 (td, J=6.8, 1.1 Hz, 1H), 5.33 (t, J=5.9 Hz, 1H), 4.67 (d, J=5.9 Hz, 2H).

reactant | LAH | 1.984 mmol, 0.078 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 3-(phenylethynyl)imidazo[1,2-a]pyridine-2-carboxylate | 0.992 mmol, 0.3 g | C1(=CC=CC=C1)C#CC1=C(N=C2N1C=CC=C2)C(=O)OCC | C18H14N2O2
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofurane | 1.4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 3.3 ml | O1CCCC1 | C4H8O
solvent | water | 1.5 ml | O | H2O
solvent | water | 0.2 ml | O | H2O
product | (3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl)methanol | 0.076 g, yield=30% | C1(=CC=CC=C1)C#CC1=C(N=C2N1C=CC=C2)CO | C16H12N2O
